US08222243B2
(3-Hydroxymethyl-piperidin-1-yl)-[5-(4-methyl-5-trifluoromethyl-isoxazol-3-yl) -thiophen-2-yl]-methanone
Prepared from 5-(5-Trifluoromethyl-4-methyl-isoxazol-3-yl)-thiophene-2-carboxylic acid and 3-piperdinemethanol by the method described in Example 2 Method B reversing the order of addition such that solid acid chloride was added to a THF solution of triethylamine and piperdine derivative. The reaction mixture was evaporated to an oil then partitioned between EtOAc (5 mL) and water (5 mL). The organic fraction was further washed with brine (2×5 mL), dried over MgSO4, filtered, and evaporated to an oil. The crude product was then chromatographed on silica gel with EtOAc/hexanes (75%) as eluant to (190 mg, 75%). 1H NMR (CDCl3) 1.28-1.35 (m, 1 H), 1.44-1.56 (m, 1 H), 1.67-1.82 (m, 3 H), 2.28 (d, J=0.9, 3 H), 2.99 (dd, J=13.2, 9.7, 1 H), 3.32 (br s, 1 H), 3.41-3.52 (m, 2 H), 4.10 (br s, 1 H), 4.21 (d, J=11.4, 1 H), 7.29 (d, J=4.0, 1 H), 7.37 (d, J=4.0, 1 H). 13C NMR 7.8, 24.9, 27.2, 39.1, ˜49 (br), 64.5, 114.8, 118.7 (q, J=271), 128.1, 129.3, 131.2, 140.3, 155.0 (q, J=40), 157.9, 162.9. 19F NMR −63.2. LC/MS 5.91 min, [M+1]+ 375.

reactant | 5-(5-Trifluoromethyl-4-methyl-isoxazol-3-yl)-thiophene-2-carboxylic acid | FC(C1=C(C(=NO1)C1=CC=C(S1)C(=O)O)C)(F)F | C10H6F3NO3S
reactant | 3-piperdinemethanol | N1CC(CCC1)CO | C6H13NO
reactant | THF | C1CCOC1 | C4H8O
reactant | piperdine | N1CCCCC1 | C5H11N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (3-Hydroxymethyl-piperidin-1-yl)-[5-(4-methyl-5-trifluoromethyl-isoxazol-3-yl) -thiophen-2-yl]-methanone | OCC1CN(CCC1)C(=O)C=1SC(=CC1)C1=NOC(=C1C)C(F)(F)F | C16H17F3N2O3S
